US07544683B2
b) Step 2: trans-N-Hydroxy-4-[4-(4-isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzamidine
A mixture of 0.15 g (0.42 mmol) of trans-[4-(4-cyano-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone, 0.118 g (1.69 mmol) of hydroxylamine hydrochloride, 0.24 ml (1.73 mmol) of triethylamine in 3 ml ethanol was refluxed for 1 hr. The mixture was evaporated to dryness to yield 0.34 g (84% yields, about 40% purity) of the titled compound. MS (m/e): 389.3 (MH+).

reactant | trans-[4-(4-cyano-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone | 0.42 mmol, 0.15 g | C(#N)C1=CC=C(O[C@@H]2CC[C@H](CC2)C(=O)N2CCN(CC2)C(C)C)C=C1 | C21H29N3O2
reactant | hydroxylamine hydrochloride | 1.69 mmol, 0.118 g | Cl.NO
reactant | triethylamine | 1.73 mmol, 0.24 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | trans-N-Hydroxy-4-[4-(4-isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzamidine | ONC(C1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C)=N | C21H32N4O3
